US05030644
4-Chloro-1,3-dimethyl-2-[(2-oxopropyl)thio]-1H-imidazolium chloride
To a solution of 1.00 gram (0.0062 mol) of 4-chloro-1,3-dimethyl-imidazoline-2-thione in 180 mL of acetone was added 0.569 g (0.0062 mol) of chloroacetone and a small crystal of sodium iodide. The mixture was stirred overnight at room temperature whereupon a product precipitated. The latter was recovered by filtration and recrystallized from isopropyl alcohol hexane to obtain purified 4 chloro-1,3-dimethyl-2-[(2-oxopropyl)thio]-1H-imidazolium chloride, m.p. 134°-136° C.

reactant | 4-chloro-1,3-dimethyl-imidazoline-2-thione | 0.0062 mol, 1.00 gram | ClC1N(C(N(C1)C)=S)C | C5H9ClN2S
reactant | chloroacetone | 0.0062 mol, 0.569 g | ClCC(C)=O | C3H5ClO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 180 mL | CC(=O)C | C3H6O
product | 4-Chloro-1,3-dimethyl-2-[(2-oxopropyl)thio]-1H-imidazolium chloride | [Cl-].ClC=1N(C([NH+](C1)C)SCC(C)=O)C | InChI=1S/C8H13ClN2OS.ClH/c1-6(12)5-13-8-10(2)4-7(9)11(8)3;/h4,8H,5H2,1-3H3;1H
